US07482456B2
Step 3: 3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-2-ol
A solution of 2-(benzyloxy)-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridine in CH2Cl2-TFA (0.25M) was stirred 15 min at 20° C. and then concentrated. The residue was diluted with EtOAc and aqueous NaHCO3. The organic extracts were washed with brine, dried over MgSO4, filtered and concentrated to afforded the title compound.

reactant | 2-(benzyloxy)-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridine | C(C1=CC=CC=C1)OC1=NC=CC=C1C1=NC(=NO1)C | C15H13N3O2
solvent | CH2Cl2-TFA | 0.25M | C(Cl)Cl.FC(F)(F)C(=O)O
product | 3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-2-ol | CC1=NOC(=N1)C=1C(=NC=CC1)O | C8H7N3O2
